US09371320B2
C) 4-(1-((3-methyloxetan-3-yl)methyl)-4-oxo-4,5-dihydro-1H-pyrazolo[4,3-c]pyridin-3-yl)benzenesulfonamide
To a solution of 4-(4-oxo-4,5-dihydro-1H-pyrazolo[4,3-c]pyridin-3-yl)benzenesulfonamide (34.5 mg) in DMF (2 mL) was added sodium hydride (60% dispersion in mineral oil, 7.13 mg), and the mixture was stirred at room temperature for 1 hr. To the reaction mixture was added (3-methyloxetan-3-yl)methyl 4-methylbenzenesulfonate (45.7 mg), and the mixture was stirred overnight at room temperature. The reaction mixture was extracted with water and ethyl acetate, and the organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (basic silica gel, ethyl acetate/methanol) to give the title compound (14.2 mg).

reactant | 4-(4-oxo-4,5-dihydro-1H-pyrazolo[4,3-c]pyridin-3-yl)benzenesulfonamide | 34.5 mg | O=C1NC=CC2=C1C(=NN2)C2=CC=C(C=C2)S(=O)(=O)N | C12H10N4O3S
reactant | sodium hydride | 7.13 mg | [H-].[Na+]
reactant | (3-methyloxetan-3-yl)methyl 4-methylbenzenesulfonate | 45.7 mg | CC1=CC=C(C=C1)S(=O)(=O)OCC1(COC1)C | C12H16O4S
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 4-(1-((3-methyloxetan-3-yl)methyl)-4-oxo-4,5-dihydro-1H-pyrazolo[4,3-c]pyridin-3-yl)benzenesulfonamide | 14.2 mg | CC1(COC1)CN1N=C(C=2C(NC=CC21)=O)C2=CC=C(C=C2)S(=O)(=O)N | C17H18N4O4S
